* C:\Users\princet\Documents\waveform-generator\waveform-generator.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 4/6/2017 4:04:36 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
J1  Net-_C3-Pad1_ USB_D- USB_D+ GNDA GNDA USB_B		
U1  GNDA +3V3 Net-_C3-Pad1_ LD1117S33TR		
C3  Net-_C3-Pad1_ GNDA 100n		
R8  EEDATA Net-_R8-Pad2_ 2.2k		
R10  Net-_R10-Pad1_ GNDA 12k		
R9  Net-_R9-Pad1_ +3V3 1k		
R6  +3V3 EECS 10k		
R7  +3V3 EECLK 10k		
R5  +3V3 EEDATA 10k		
C1  FTOSC- GNDA 27p		
C2  FTOSC+ GNDA 27p		
C6  Net-_C10-Pad1_ GNDA 3.3u		
C7  Net-_C10-Pad1_ GNDA 100n		
C8  Net-_C10-Pad1_ GNDA 100n		
C9  Net-_C10-Pad1_ GNDA 100n		
C10  Net-_C10-Pad1_ GNDA 100n		
C11  Net-_C10-Pad1_ GNDA 100n		
C12  Net-_C10-Pad1_ GNDA 100n		
C13  Net-_C10-Pad1_ GNDA 100n		
L1  +3V3 FTVPHY 800m		
C20  FTVPHY GNDA 100n		
L2  +3V3 FTVPLL 800m		
C22  FTVPLL GNDA 100n		
D1  GNDA Net-_D1-Pad2_ LED_Small		
R2  Net-_D1-Pad2_ +3V3 470		
J4  +3V3 GNDA Net-_J4-Pad3_ Net-_J4-Pad4_ Net-_J4-Pad5_ Net-_J4-Pad6_ Net-_J4-Pad7_ Net-_J4-Pad8_ Net-_J4-Pad9_ Net-_J4-Pad10_ Net-_J4-Pad11_ Net-_J4-Pad12_ Net-_J4-Pad13_ Net-_J4-Pad14_ Net-_J4-Pad15_ Net-_J4-Pad16_ Net-_J4-Pad17_ Net-_J4-Pad18_ CONN_02X09		
R3  Net-_D2-Pad2_ +3V3 470		
D2  FTTXLED Net-_D2-Pad2_ LED_Small		
R4  Net-_D3-Pad2_ +3V3 470		
D3  FTRXLED Net-_D3-Pad2_ LED_Small		
U3  Net-_C17-Pad2_ +3V3 Net-_C14-Pad1_ GNDA DAC_CLK /SDATA /SCK /~FSYNC GNDA Net-_C18-Pad1_ GNDA AD9837		
C17  +3V3 Net-_C17-Pad2_ 10n		
C16  +3V3 GNDA 100n		
C14  Net-_C14-Pad1_ GNDA 100n		
U4  GNDA FTOSC- FTOSC+ FTVPHY GNDA Net-_R10-Pad1_ USB_D- USB_D+ FTVPLL GNDA GNDA Net-_C10-Pad1_ GNDA Net-_R9-Pad1_ GNDA /SCK /SDATA ? /~FSYNC +3V3 ? ? ? ? GNDA ? ? ? FTRXLED FTTXLED +3V3 ? ? ? GNDA ? Net-_C10-Pad1_ Net-_J4-Pad3_ Net-_J4-Pad5_ Net-_J4-Pad7_ Net-_J4-Pad9_ +3V3 Net-_J4-Pad11_ Net-_J4-Pad13_ Net-_J4-Pad15_ Net-_J4-Pad17_ GNDA Net-_J4-Pad4_ Net-_C10-Pad1_ +3V3 GNDA Net-_J4-Pad6_ Net-_J4-Pad8_ Net-_J4-Pad10_ Net-_J4-Pad12_ +3V3 Net-_J4-Pad14_ Net-_J4-Pad16_ Net-_J4-Pad18_ ? EEDATA EECLK EECS Net-_C10-Pad1_ FT2232H		
J3  Net-_C18-Pad1_ GNDA VOUT		
C18  Net-_C18-Pad1_ GNDA 100n		
J2  Net-_J2-Pad1_ GNDA EXT_CLK		
R1  Net-_J2-Pad1_ GNDA 50		
C5  +3V3 GNDA 100n		
JP1  Net-_JP1-Pad1_ DAC_CLK Net-_J2-Pad1_ CLK_SELECT		
C21  FTVPLL GNDA 4.7u		
C19  FTVPHY GNDA 4.7u		
C4  +3V3 GNDA 10u		
C15  Net-_C14-Pad1_ GNDA 10u		
U2  Net-_R8-Pad2_ GNDA EEDATA EECLK EECS +3V3 93LC46BT		
C23  +3V3 GNDA 100n		
Y2  ? GNDA Net-_JP1-Pad1_ +3V3 OXETGCJANF		
Y1  FTOSC- FTOSC+ 12MHz		
TP4  Net-_C18-Pad1_ VOUT		
TP3  +3V3 +3.3V		
TP1  Net-_C3-Pad1_ VBUS		
TP2  GNDA GND		

.end
